US04395411
Conc. hydrochloric acid (127.4 mg.) was dropwise added to a suspension of 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 930 mg.) in methanol (15 ml.) and stirred at room temperature for 40 minutes. After methanol was removed under reduced pressure from the resultant solution, water (100 ml.) was added to the residue and the solid substance was dissolved by adding 10% hydrochloric acid. After the insoluble material was filtered out, the filtrate was adjusted to pH 3 with an aqueous sodium bicarbonate. The solution was purified by column chromatography on macroporous, non-ionic adsorption resin "Diaion HP-20" (Trademark, manufactured by Mitsubishi Chemical Industries Ltd.), with an eluent of aqueous methanol. The eluate was lyophilized to give 7-[2-(6-aminopyridin-2-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (605 mg.), mp. 150° to 154° C.

reactant | hydrochloric acid | 127.4 mg | Cl | ClH
reactant | 7-[2-(6-formamidopyridin-2-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 930 mg | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOC | C19H19N9O6S2
solvent | methanol | 15 ml | CO | CH4O
product | 7-[2-(6-aminopyridin-2-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 605 mg | NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOC | C18H19N9O5S2
